US04268418
A reaction mixture of titanium tetrachloride and titanium tetraisopropoxide in amounts selected to result in an average composition corresponding to titanium diisopropoxide dichloride was prepared, as follows. One milliliter (3.32 mmoles) of titanium tetraisopropoxide was added to 18 ml of dry heptane under a nitrogen atmosphere. 0.38 milliliter (3.38 mmoles) of titanium tetrachloride was then added and a white precipitate formed. The reaction mixture was maintained at room temperature for one hour.

reactant | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
reactant | titanium tetraisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | titanium diisopropoxide dichloride | [Cl-].[Cl-].CC([O-])C.CC([O-])C.[Ti+4] | InChI=1S/2C3H7O.2ClH.Ti/c2*1-3(2)4;;;/h2*3H,1-2H3;2*1H;/q2*-1;;;+4/p-2
